US04198424
1-(3-methoxyphenyl)-2-(1-methyl-2-pyrrolidinyliden)ethanone
A solution of 10.35 g of sodium in 225 ml of ethanol is added dropwise at 90° (with stirring) in the course of one hour to a mixture of 107 g of 2-dimethylamino-1-methyl-1-pyrrolinium methyl sulfate and 45.1 g of 3-methoxyacetophenone; stirring is effected for a further 2 hours at this temperature, and the solvent is then largely distilled off under a vacuum. 300 ml of water and 300 ml of diethyl ether are added to the cooled residue, and thorough shaking is effected. The ethereal phase is collected, dried over sodium sulfate and concentrated. The crystalline residue is recrystallized from chloroform/cyclohexane to yield 41.8 g of the title compound (as yellowish crystals), m.p. 92° to 93°.

reactant | sodium | 10.35 g | [Na] | Na
reactant | 2-dimethylamino-1-methyl-1-pyrrolinium methyl sulfate | 107 g | COS(=O)(=O)[O-].CN(C1=[N+](CCC1)C)C
reactant | 3-methoxyacetophenone | 45.1 g | CC(=O)C1=CC(=CC=C1)OC | C9H10O2
solvent | ethanol | 225 ml | C(C)O | C2H6O
product | 1-(3-methoxyphenyl)-2-(1-methyl-2-pyrrolidinyliden)ethanone | 41.8 g | COC=1C=C(C=CC1)C(C=C1N(CCC1)C)=O | C14H17NO2
